US05723465
Preparation of N,N'-bis-((E)-3-(2-methoxyphenyl)-2-propenyl)piperazine
2-Methoxy-cinnamylalcohol (1.44 g) was chlorinated using thionylchloride. Subsequently, reaction with piperazine and other treatments were performed as described in Preparation Example 2, to thereby obtain 314 mg of a salt as colorless prisms.

reactant | 2-Methoxy-cinnamylalcohol | 1.44 g | COC1=C(C=CCO)C=CC=C1 | C10H12O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N,N'-bis-((E)-3-(2-methoxyphenyl)-2-propenyl)piperazine | 314 mg | COC1=C(C=CC=C1)/C=C/CN1CCN(CC1)C\C=C\C1=C(C=CC=C1)OC | C24H30N2O2
